US07557114B2
(f) 2-Benzhydryl-5-fluoro-6-iodo-2,3-dihydro-1H-isoindole
To a mixture of 5.93 mmol methanesulfonic acid 4-fluoro-5-iodo-2-methanesulfonyloxymethyl-benzyl ester and 14.8 mmol N,N-diisopropylethylamine in 7 ml DMF at 0° C. was added dropwise a solution of 6.53 mmol diphenylmethylamine in 5 ml DMF. The mixture was heated at 60° C. for 16 h and was then cooled to room temperature and partitioned between ethyl acetate and water. The organic phase was washed sequentially with water and brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluant: ethyl acetate/heptane) to afford the title compound as a light yellow solid (55% yield).

reactant | methanesulfonic acid 4-fluoro-5-iodo-2-methanesulfonyloxymethyl-benzyl ester | 5.93 mmol | FC1=CC(=C(COS(=O)(=O)C)C=C1I)COS(=O)(=O)C | C10H12FIO6S2
reactant | N,N-diisopropylethylamine | 14.8 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenylmethylamine | 6.53 mmol | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-Benzhydryl-5-fluoro-6-iodo-2,3-dihydro-1H-isoindole | 55% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC2=CC(=C(C=C2C1)F)I | C21H17FIN
